US07105553B2
N-[5-(Aminosulphonyl)-4-methyl-1,3-thiazol-2-yl]-2-[1,1′-biphenyl]-4-yl-N-methylacetamide
138.2 mg (0.65 mmol) of 4-biphenylacetic acid and 99.7 mg (0.65 mmol) of 1-hydroxy-1H-benzotriazole hydrate are initially charged at room temperature in 5 ml of dimethylformamide. 150 mg (0.72 mmol) of 2-methylamino-4-methyl-1,3-thiazole-5-sulphonamide and 138.7 mg (0.72 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride are added, and the mixture is stirred at room temperature for 72 h. The reaction mixture is then filtered off with suction and the residue is recrystallized from 2-propanol. This gives a white solid.

reactant | 4-biphenylacetic acid | 0.65 mmol, 138.2 mg | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | 1-hydroxy-1H-benzotriazole hydrate | 0.65 mmol, 99.7 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 2-methylamino-4-methyl-1,3-thiazole-5-sulphonamide | 0.72 mmol, 150 mg | CNC=1SC(=C(N1)C)S(=O)(=O)N | C5H9N3O2S2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 0.72 mmol, 138.7 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[5-(Aminosulphonyl)-4-methyl-1,3-thiazol-2-yl]-2-[1,1′-biphenyl]-4-yl-N-methylacetamide | NS(=O)(=O)C1=C(N=C(S1)N(C(CC1=CC=C(C=C1)C1=CC=CC=C1)=O)C)C | C19H19N3O3S2
